*single electron transistor
*connections: source
* | drain
* | | gate1
* | | | gate2
* | | | |
.SUBCKT SET 1 2 3 4 PARAMS:

+C1=1.0E-18 ; Capacitance of junction 1
+C2=1.1E-18 ; Capacitance of junction 2
+R1=100E3; Resistance of junction 1
+R2=100E3 ; Resistance of junction 2


+Cg1=1E-18 ; Capacitance of gate 1
+Cg2=0; Capacitance of gate 2
+C0=0 ; Self Capacitance of the island
+Q0=0 ; Offset charge in units of e
+TEMP=4.2 ; Temperature
.PARAM PI=3.1415926535897932 ; Pi constant
.PARAM E=1.60217733E-19 ; Electronic charge
.PARAM KB=1.380658E-23 ; Boltzmann’s constant
.PARAM CSUM={C1+C2+Cg1+Cg2+C0} ; The total capacitance of the SET
.PARAM T={TEMP*CSUM*5.3785467E14} ; Normalized temperature, 5.3785467E14 = kB/e^2
.PARAM RN1={R1/(R1+R2)} ; Normalized resistance of junction 1
.PARAM RN2={R2/(R1+R2)} ; Normalized resistance of junction 2
.FUNC Q(v1,v2,v3,v4) { (Cg1*v3+Cg2*v4+C1*v1+C2*v2)/E+Q0 } ; Definition of a charge term in units of e
.FUNC VN(v) { CSUM*v/E } ; The normalized voltage
.FUNC GAMMA(u) { IF(T==0,IF(u<0,-u,0),IF(u==0,T,u/(EXP(u/T)-1)))} ; The rate function
.FUNC ROUND(x) { x-IF(cos(PI*x)>0,arcsin(sin(PI*x))/PI,-arcsin(sin(PI*x))/PI) } ; The round() function
.FUNC N_OPT(v1,v2,v3,v4) { ROUND(-Q(v1,v2,v3,v4)+(CSUM/E)*(v1*RN2+v2*RN1)) }

;The most probable charge on the island in units of e*************************** the rates for the four tunnel events*****************************

.FUNC R1L(n,v1,v2,v3,v4) {GAMMA(0.5 - n - Q(v1,v2,v3,v4) + VN(v1))/RN1}
.FUNC R1R(n,v1,v2,v3,v4) {GAMMA(0.5 + n + Q(v1,v2,v3,v4) - VN(v1))/RN1}
.FUNC R2L(n,v1,v2,v3,v4) {GAMMA(0.5 + n + Q(v1,v2,v3,v4) - VN(v2))/RN2}
.FUNC R2R(n,v1,v2,v3,v4) {GAMMA(0.5 - n - Q(v1,v2,v3,v4) + VN(v2))/RN2}
* determine the relative probabilities; charge state N_OPT is initially assumed to have a relative probability equal to one

.FUNC PN_1(n,v1,v2,v3,v4) {(R1L(n,v1,v2,v3,v4)+R2R(n,v1,v2,v3,v4))/(R1R(n-1,v1,v2,v3,v4)+R2L(n-1,v1,v2,v3,v4))}


.FUNC PN1(n,v1,v2,v3,v4){(R2L(n,v1,v2,v3,v4)+R1R(n,v1,v2,v3,v4))/(R2R(n+1,v1,v2,v3,v4)+R1L(n+1,v1,v2,v3,v4))}


.FUNC PSUM(n,v1,v2,v3,v4) {PN_1(n,v1,v2,v3,v4)+1+PN1(n,v1,v2,v3,v4)}

**************** calculate the current from source to drain ****************

.FUNC CUR(n,v1,v2,v3,v4) { PN_1(n,v1,v2,v3,v4)*(R1R(n-1,v1,v2,v3,v4)-R1L(n-1,v1,v2,v3,v4))
                           ++(R1R(n,v1,v2,v3,v4)-R1L(n,v1,v2,v3,v4))
                           ++PN1(n,v1,v2,v3,v4)*(R1R(n+1,v1,v2,v3,v4)-R1L(n+1,v1,v2,v3,v4))}

.FUNC CURRENT(n,v1,v2,v3,v4) { E*CUR(n,v1,v2,v3,v4)/(CSUM*PSUM(n,v1,v2,v3,v4)*(R1+R2))}

********************** calculate the island voltage ************************
.FUNC VOLT(n,v1,v2,v3,v4) {
                            ++PN_1(n,v1,v2,v3,v4)*(n-1+Q(v1,v2,v3,v4))
                            ++n+Q(v1,v2,v3,v4)
                            ++PN1(n,v1,v2,v3,v4)*(n+1+Q(v1,v2,v3,v4))
                             }
.FUNC VOLTAGE(n,v1,v2,v3,v4) { (E/CSUM)*VOLT(n,v1,v2,v3,v4)/PSUM(n,v1,v2,v3,v4) }
E1 5 0 VALUE={VOLTAGE(N_OPT(V(1),V(2),V(3),V(4)),V(1),V(2),V(3),V(4))} ; Voltage of the island
G1 1 2 VALUE={CURRENT(N_OPT(V(1),V(2),V(3),V(4)),V(1),V(2),V(3),V(4))} ; Current from source to drain
CT1 1 5 {C1}
CT2 2 5 {C2}
CGATE1 3 5 {CG1}
CGATE2 4 5 {CG2}


.ENDS SET
